US07456200B2
[5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-ylmethyl]-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine
10 mg (0.4 mmol) NaH was added to a solution of 38 mg (0.2 mmol) methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine in 3 ml DMF under an atmosphere of nitrogen. After 10 min a solution of 50 mg (0.22 mmol) 3-chloromethyl-5-(3-chloro-phenyl)-[1,2,4]oxadiazole in 2 ml DMF was added. After stirring for 45 min NH4Cl(sat) was added and the mixture was extracted twice with CHCl3. The organic phase was dried and concentrated. Flashchromatography (CH2Cl2/MeOH 20:1) afforded 41 mg (54%) of the desired product. 1H NMR (CDCl3), d (ppm): 3.07 (s, 3 H) 3.71 (s, 3 H) 4.56 (s, 2 H) 7.45 (m, 1 H) 7.55 (m, 1 H) 7.62 (d, 2 H) 7.98 (d, 1 H) 8.09 (m, 1 H) 8.73 (d, 2 H).

reactant | NaH | 0.4 mmol, 10 mg | [H-].[Na+]
reactant | methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine | 0.2 mmol, 38 mg | CNC1=NN=C(N1C)C1=CC=NC=C1 | C9H11N5
reactant | 3-chloromethyl-5-(3-chloro-phenyl)-[1,2,4]oxadiazole | 0.22 mmol, 50 mg | ClCC1=NOC(=N1)C1=CC(=CC=C1)Cl | C9H6Cl2N2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-ylmethyl]-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine | 41 mg, 54% | ClC=1C=C(C=CC1)C1=NC(=NO1)CN(C1=NN=C(N1C)C1=CC=NC=C1)C | C18H16ClN7O
